US07371747B2
Synthesis of (1R/S,6R/S)-N-(Cyanomethyl)-6-{[(4-fluorophenyl)sulfanyl]methyl}-cyclohex-3-ene-1-carboxamide
(1R/S,6R/S)-6-{[(4-Fluorophenyl)sulfanyl]methyl}cyclohex-3-ene-1-carboxylic acid (620 mg, 2.34 mmol) was weighed into a 25 mL round bottom flask and aminoacetonitrile hydrochloride (480 mg, 5.20 mmol) and benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (1.34 g, 2.60 mmol) were added. Dimethylformamide (8.0 mL) was added and the reaction mixture was cooled to 0° C. After adding triethylamine (1.2 mL, 8.6 mmol) the reaction mixture was stirred at ambient temperature for 28 h, and then partitioned between water and ethyl acetate. The organic layer was washed with saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and concentrated. Chromatography of the residue on silica gel with 45:55 ethyl acetate:hexanes eluent provided the title compound as a colorless solid. 1H NMR (500 MHz, acetone-d6): δ=7.92 (1H, br s), 7.41 (2H, dd), 7.08 (2H, dd), 5.64 (2H, m), 4.24 (2H, m), 3.22 (1H, dd), 2.72 (1H, dd), 2.50-2.40 (2H, m), 2.26-2.20 (2H, m), 2.12 (1H, m), 1.86 (1H, m). MS [ESI, (M−H)−] m/z=303.1 amu.

reactant | (1R/S,6R/S)-6-{[(4-Fluorophenyl)sulfanyl]methyl}cyclohex-3-ene-1-carboxylic acid | 2.34 mmol, 620 mg | FC1=CC=C(C=C1)SCC1CC=CCC1C(=O)O | C14H15FO2S
reactant | aminoacetonitrile hydrochloride | 5.20 mmol, 480 mg | Cl.NCC#N
reactant | tripyrrolidinophosphonium hexafluorophosphate | 2.60 mmol, 1.34 g | F[P-](F)(F)(F)(F)F.N1(CCCC1)[PH+](N1CCCC1)N1CCCC1
reactant | triethylamine | 8.6 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
solvent | Dimethylformamide | 8.0 mL | CN(C=O)C | C3H7NO
product | (1R/S,6R/S)-N-(Cyanomethyl)-6-{[(4-fluorophenyl)sulfanyl]methyl}-cyclohex-3-ene-1-carboxamide | C(#N)CNC(=O)C1CC=CCC1CSC1=CC=C(C=C1)F | C16H17FN2OS
